US07435837B2
(±)-{[7-(2-fluorophenyl)-5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.03 g, 28%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(2-fluorophenyl) 5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.14 g, 0.34 mmol) and methylamine (0.105 g, 3.4 mmol). mp 153-155° C.

reactant | (±)-[7-(2-fluorophenyl) 5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.34 mmol, 0.14 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)F)C | C23H21FO4S
reactant | methylamine | 3.4 mmol, 0.105 g | CN | CH5N
product | (±)-{[7-(2-fluorophenyl)-5-methyl-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | FC1=C(C=CC=C1)C1=CC(=CC=2CC(OC21)CNC)C | C17H18FNO
